US08030489B2
To a mixture of tert-butyl {(1S,2R)-2-[amino(hydroxyimino)methyl]cyclopentyl}carbamate (320 mg) and acetonitrile (8.0 ml) were added 1,1′-carbonothioyl bis(1H-imidazole) (391 mg) and DBU (787 μl) in this order, followed by stirring at room temperature for 1 hour. The reaction mixture was diluted with water (15 ml), and 1 M hydrochloric acid was added thereto to adjust the pH to about 4, followed by extraction with ethyl acetate (40 ml). The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was then removed by evaporation under reduced pressure. The residue was purified by silica gel column chromatography (3% methanol-chloroform) and then washed with cooled ethyl acetate (2 ml) to obtain tert-butyl [(1S,2R)-2-(5-thioxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)cyclopentyl]carbamate (160 mg) as a white solid.

reactant | tert-butyl {(1S,2R)-2-[amino(hydroxyimino)methyl]cyclopentyl}carbamate | 320 mg | NC([C@H]1[C@H](CCC1)NC(OC(C)(C)C)=O)=NO | C11H21N3O3
reactant | acetonitrile | 8.0 ml | C(C)#N | C2H3N
reactant | 1,1′-carbonothioyl bis(1H-imidazole) | 391 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | DBU | 787 μl | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | water | 15 ml | O | H2O
solvent | hydrochloric acid | 1 M | Cl | ClH
product | tert-butyl [(1S,2R)-2-(5-thioxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)cyclopentyl]carbamate | 160 mg | S=C1NC(=NO1)[C@H]1[C@H](CCC1)NC(OC(C)(C)C)=O | C12H19N3O3S
